US06194461B1
2) α-(2,4-difluorophenyl)-N-[dimethyl(acetoxymethyl)methyl]nitrone
A suspension of 2,4-difluorobenzaldehyde (428.2 mg, 3.01 mmol), 2-methyl-2-nitro-1-acetoxypropane (467.8 mg, 2.90 mmol) and zinc (321.7 mg, 4.92 mmol) in ethanol (5 ml) was cooled to 0° C. in ice-water bath. Acetic acid (0.57 ml, 9.9 mmol) was added dropwise to the mixture and was warmed to room temperature and stirred for 16 hours. The mixture was filtered through Celite® bed and the filtrate was concentrated and purified by silica gel chromatography (hexane/ethyl acetate=2/1) to give the title compound (380.8 mg; 48%).

reactant | 2,4-difluorobenzaldehyde | 3.01 mmol, 428.2 mg | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | 2-methyl-2-nitro-1-acetoxypropane | 2.90 mmol, 467.8 mg | CC(COC(C)=O)(C)[N+](=O)[O-] | C6H11NO4
reactant | Acetic acid | 9.9 mmol, 0.57 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | zinc | 4.92 mmol, 321.7 mg | [Zn] | Zn
product | α-(2,4-difluorophenyl)-N-[dimethyl(acetoxymethyl)methyl]nitrone | 380.8 mg, 48% | FC1=C(C=CC(=C1)F)C=[N+]([O-])C(COC(C)=O)(C)C | C13H15F2NO3
